Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysphagia
 
Major Surgical or Invasive Procedure:
___
1. Minimally-invasive ___ esophagectomy.
2. Buttressing of intrathoracic anastomosis with thymus.
3. Laparoscopic jejunostomy feeding tube.
4. Esophagogastroduodenoscopy.

___
Bronchoscopy

___
DL PICC placement

___
1. Esophagogastroduodenoscopy.
2. Flexible bronchoscopy with BAL.

 
History of Present Illness:
Mr ___ is a very pleasant ___ who
noted solid food dysphagia7 months ago. His symptoms worsened,
and on ___, he had a barium swallow which showed both
polypoid and mural mass within the distal esophagus,
approximately 25 mm proximal to the GE junction.

He underwent EGD ___ which showed a distal esophageal
circumferential ulceration and a fungating mucosal mass starting
at 34 cm and extending to 40 cm, just above the GE junction.
Biopsy showed moderately differentiated invasive adenocarcinoma.
HER-2/neu was negative. CEA was elevated (22.5) and CA-125 was
within normal limits.

CT torso ___ showed irregular asymmetric distal esophageal
wall thickening consistent with known distal esophageal mass 
with
epigastric and celiac axis lymph nodes which were nonspecific
(the largest epigastric lymph node measured 19 mm). PET-CT scan
___ showed FDG avid esophageal mass with mildly FDG avid 
left
diaphragmatic and subdiaphragmatic lymph nodes. 

Staging EGD/EUS ___ showed an exophytic esophageal mass at
the lower third of the esophagus (5cm long). It was staged as T3
by EUS criteria. There was one small ___ lymph node
(0.44x0.5cm) which was not sampled since the FNA would have had
to go through the tumor risking contamination. Two celiac lymph
nodes concerning for malignant involvement (0.57x0.32cm &
1.03x0.76cm) were seen. The larger celiac LN was sampled and
found to contain metastasis. He was therefore staged as having
T3N2 disease.

He completed chemoradiation therapy for locally advanced 
esophageal cancer and 
his PET-CT scan was performed on ___.  This study
demonstrated decreased FDG avidity at the site of the known
primary esophageal cancer.  ___ addition, the gastrohepatic
lymphadenopathy has also decreased ___ size and avidity.  There
was no evidence of metastatic disease.  The radiologist noted a
new irregular opacity ___ the right lower lung.  We reviewed this
___ our multidisciplinary conference and feel that this is likely
inflammatory or infectious. He presents now for an 
esophagectomy.

 
Past Medical History:
CAD  
HTN
HLD
Bipolar disorder
Esophageal cancer

PAST SURGICAL HISTORY
None

 
Social History:
___
Family History:
Mother
Father: CAD at age ___, died of MI at age ___
Siblings
Offspring
Other

 
Physical Exam:
BP: 122/77. Heart Rate: 62. Weight: # (refuse to take shoes 
off).
Temperature: 98.1. Resp. Rate: 16. Pain Score: 0. O2 
Saturation%:
100. Distress Score: 5.

GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] Anicteric
[x] OP/NP mucosa normal
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P    
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR   
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Cognition intact
[ ] Abnormal findings:

MS             
[x] No clubbing   [x] No cyanosis   [x] No edema 
[x] No tenderness  
[ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl  

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CT Abd/pelvis :
1.  Postsurgical changes related to esophagectomy. No 
extraluminal oral 
contrast to suggest a leak. 
2.  New ill-defined hepatic hypodensities ___ segments II and 
___ reflect  retraction injury, new since the preoperative 
exam ___. 
3.  Small to moderate amount of simple free fluid ___ the abdomen 
and pelvis. No drainable fluid collection or evidence of abscess 
formation. 
4.  Stable appearance of renal and hepatic hypodensities, which 
are too small to characterize and are most likely cysts. 

___ Chest CT :
1.  Postsurgical changes related to esophagectomy and gastric 
pull-through. Oral material is seen throughout the neoesophagus. 
No extraluminal oral contrast to suggest a leak. 
2.  Moderate bibasilar consolidations, may represent infection 
or aspiration. 
3.  Small left and trace right nonhemorrhagic pleural effusions. 

  
___ CXR :
___ comparison with the study of earlier ___ this date, the right 
hemidiaphragm is not as sharply seen.  This raises the 
possibility of some effusion and atelectasis at the right base.  
Extensive left basilar 
opacification consistent with fluid and volume loss ___ the lower 
lobe is again noted.  Monitoring and support devices are 
essentially unchanged. 
  
___ CXR 
As compared to the previous radiograph, there is a minimal 
increase ___ 
vascular diameters and a minimal increase ___ the extent of a 
small left 
pleural effusion.  Unchanged are the positions of the monitoring 
and support devices as well as the moderate cardiomegaly and the 
overall low lung volumes. No new focal parenchymal opacities 
suggesting pneumonia.

___ CT Abd/pelvis :
1. Redemonstration of segment ___ hepatic parenchymal 
hypodensity, likely 
representing retraction injury.  Stable hepatic hypodensities 
most likely 
representing cysts or biliary hamartomas. 
2. Left renal cystic lesion with posterior hyperdensity, 
possibly representing layering hemorrhagic or proteinaceous 
contents, can be assessed for expected stability at  followup. 
3. Please refer to dedicated chest CT of same date for 
discussion of thoracic findings including right sided 
hydropneumothorax. 

___ Chest CT :
As compared to the previous examination, there is a new 
subcarinal fluid collection with air bubbles.  New pleural 
effusions.  
Unchanged right pneumothorax and small amount of retrocrural 
air.  At the time of dictation and observation, 3:10 p.m. on the 
___, the findings were discussed with the 
referring surgeon, Dr. ___. 

___ Ba swallow :
Contained leak was demonstrated at the level of carina. The 
location of the leak corresponds to the location of fluid 
collection as seen on the CT chest ___ 

___ CXR :
No relevant change as compared to the previous radiograph, the 
lung volumes have minimally increased, likely reflecting 
improved ventilation. However, mild pulmonary edema and remnant 
atelectasis at the lung bases persist.  The radiodense material 
projecting over the mediastinum is constant ___ distribution. 
Unchanged moderate cardiomegaly 

___ Ba swallow :
A persistent contained leak was demonstrated.

___ CXR :
___ comparison with the study of ___, the patient has taken a 
slightly 
better inspiration.  The cardiac silhouette remains mildly 
enlarged.  There is little if any elevation and pulmonary venous 
pressure. Bibasilar atelectatic changes and small effusions 
persist.  The Port-A-Cath again extends to the mid portion of 
the SVC. 

                    WBC   RBC    Hgb  Hct MCV MCH  MCHC   RDW 
Plt Ct 
___ 12:12    10.2 3.63* 10.0* 33.5* 92 27.5 29.8* 15.3 
367 
___ 02:52    6.8 3.11*  8.5*  28.2* 91 27.4 30.3* 15.1 
282 
Source: Line-Port 
___ 02:26    11.3* 3.13* 8.5* 28.3* 91 27.1 30.0* 15.3 
305 
Source: Line-port a cath 
___ 18:45    17.1* 3.67* 10.5* 33.1* 90 28.5 31.6 15.2 
464* 
Source: Line-port 
___ 05:00    6.8 3.38*  9.4*  30.7* 91 27.7 30.5* 15.1 
339 
 ___ 08:35    7.0 3.44* 9.5*  31.3* 91 27.5 30.3* 14.8 
308 
Source: Line-Port 
___ 01:49    7.2 3.37* 9.2* 30.9* 92 27.2 29.7* 14.7 298 
___ 03:47    7.7 3.38* 9.4* 31.2* 92 27.9 30.2* 14.8 318 
___ 03:39    8.1 3.34* 9.4* 31.3* 94 28.2 30.1* 14.7 302 
___ 01:51    8.6 3.17* 9.0* 29.7* 94 28.3 30.2* 14.8 274 
Source: Line-___ 
___ 01:51    10.2 3.38* 9.6* 32.0* 95 28.3 30.0* 14.8 351 

Source: Line-picc 
___ 02:08    12.0* 3.48* 9.7* 32.2* 92 27.8 30.1* 14.8 
338 
Source: Line-___ 
___ 03:26    10.1 3.40* 9.6* 31.9* 94 28.3 30.2* 14.6 347 

___ 03:22    9.8 3.37* 9.5* 31.5* 94 28.3 30.3* 14.3 341 
___ 02:05    8.2 3.29* 9.2* 30.5* 93 28.1 30.3* 14.3 330 
___ 02:39    5.8 3.14* 8.8* 28.6* 91 28.0 30.7* 14.1 266 
___ 02:12    5.8 3.23* 9.2* 29.6* 92 28.6 31.2 14.2 271 
Source: Line-a 
___ 01:42    5.5 3.22* 9.1* 29.5* 92 28.3 30.9* 14.3 233 
Source: Line-art 
___ 05:08    5.3 3.15* 8.9* 28.9* 92 28.4 30.9* 14.4 213 
___ 23:06    6.0 3.12* 9.1* 29.0* 93 29.1 31.3 14.4 205 
___ 09:25    5.8 3.21* 9.1* 29.5* 92 28.4 31.0 14.2 194 
Source: Line-arterial 
___ 01:23    5.8 3.16* 9.3* 29.4* 93 29.5 31.8 14.3 181 
___ 02:50    5.1 3.23* 9.5* 30.6* 95 29.3 31.0 14.4 158 
___ 01:41    7.6 3.44* 10.0* 31.9* 93 29.0 31.3 14.6 135* 

___ 02:09    9.5 3.61* 10.9* 33.9* 94 30.1 32.1 15.0 139* 

Source: Line-aline 
___ 17:00    10.0 3.84* 11.0* 35.6* 93 28.7 31.0 15.0 
141* 
Source: Line-aline 
___ 04:01    7.7 3.76* 11.2* 35.4* 94 29.8 31.7 15.2 88*1 

___ 21:30    11.9* 4.37* 12.5* 41.0 94 28.7 30.6* 14.9 
200 
___ 16:47    11.5* 4.08* 12.0* 38.2* 94 29.4 31.4 14.9 
172 

 
                  GlucoseUreaN Creat Na   K  Cl HCO3 AnGap 
___          ___   141 4.5 ___ 
___ 09:42    ___   142 4.5 104 32 11 
Source: Line-port 
___ 02:52    ___   138 4.1 ___ 
Source: Line-Port      
___ 02:26    ___   138 4.4 ___ 
Source: Line-port a cath 
___ 18:45    ___   135 4.6 99  30 11 
Source: Line-port 
___ 05:00    113*1 22*   0.7  137 4.4 100 30 11 
___ 08:35    164*1 21*   0.7  133 4.3 98  29   10 
Source: Line-Port 
___ 01:49    135*1 22*   0.7   137 4.6 102 29  11 
___ 03:47    132*1 23*   0.8   140 4.7 ___ 
___ 03:39    134*1 24*   0.7   143 4.1 107 32  8 
___ 01:51    155*1 26*   0.8   143 4.5 ___ 
Source: Line-___ 
___ 01:51    152*1 31*   0.8   141 5.0 ___ 
Source: Line-___ 
___ 18:30    161*1 31*   0.8   142 4.7 104 31  12 
Source: Line-___ 
___ 02:08    163*1 30*   0.8   147* 4.3 ___ 
Source: Line-___ 
___ 03:26    137*1 28*   0.7   147* 4.4 105 34* 12 
___ 23:05    150*1 27*   0.7   145 4.5 104 35*  11 
___ 03:22    171*1 20    0.6   145 4.3 105 35*   9 
___ 22:40    170*1 21*   0.7   147* 4.2 104 35* 12 
___ 02:05    144*1 20    0.6   142 3.6 102 35*   9 
___ 14:34                      138 4.0 98     
Source: Line-aline 
___ 02:39    131*1 20    0.6   139 4.1 99 34*   10 
___ 21:00    137*1 19    0.7   139 4.1 101 34*   8 
___ 02:12    137*1 22*   0.7   141 4.2 101 32   12 
Source: Line-a   
___ 15:00                      140 3.7 101     
Source: Line-a 
___ 06:20                      139 4.1 101     
Source: Line-art; Vancomycin @ Trough 
___ 01:42    157*1 23*   0.9   138 3.7 100 27    15 
Source: Line-art 
___ 14:20                      143 3.5 102     
Source: Line-midline 
___ 05:08    140*1 21*   0.9   137 3.1* 100 29  11 
___ 23:06    141*1 20    0.8   143 3.7 106 31   10 
___ 09:25    192*1 21*   0.8   141 3.9 ___ 
Source: Line-arterial 
___ 01:23    142*1 21*   0.8   142 3.7 ___ 
___ 18:00                      142 3.7 106     
Source: Line-a 
___ 02:50    162*1 26*   0.7   143 4.1 ___ 
___ 17:00                     146* 2.3 123    
Source: Line-a 
___ 01:41    130*1 27*   0.9   144 4.2 113* 25  10 
___ 14:00                      142 4.1 111*     
Source: Line-a 
___ 02:09    125*1 32*   1.3*  141 4.3 113* 24   8 
Source: Line-aline 
___ 22:15    119*1 33*   1.4*  140 4.2 111* 23   10 
Source: Line-aline 
___ 04:01    146*1 27*   1.6*  141 4.7 111* 21*  14 
___ 00:11    154*1 26*   1.7*  139 4.9 109* 21*  14 
___ 21:30    131*1 25*   1.7*  139 6.1 109*     
___ 16:47    119*1 21*   1.7*  135 6.0*4 ___ 
 

___ 9:17 am BRONCHOALVEOLAR LAVAGE

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED
 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a minimally-invasive 
___ esophagectomy, buttressing of intrathoracic 
anastomosis with thymus, laparoscopic jejunostomy feeding tube 
and esophagogastroduodenoscopy.  He tolerated the procedure well 
and returned to the SICU intubated and ___ stable condition.  He 
remained intubated and sedated for several days post op as he 
required some diuresis but unfortunately he developed bibasilar 
consolidations as well as fevers and he was treated with 
antibiotics for aspiration pneumonia. He also developed atrial 
fibrillation and was treated with IV Diltiazem for rate control. 
 His creatinine rose to 1.7 post op but returned to normal with 
more hydration and withholding diuretics. Delirium was also an 
issue and he was treated with Seroquel which was effective. 
Eventually his pre op lithium was resumed and his mental status 
returned to normal. I will do a systems review for completeness 
sake.

Pulmonary :  Mr. ___ spent 10 days on the ventilator with 
weaning problems due to some fluid overload, possible aspiration 
pneumonia and severe agitation when sedation was weaned down.  
He had a bronchoscopy done on ___ to help clear his 
secretions and he was also placed on his pre op lithium which 
eventually made weaning of his sedation easier and he was 
extubated on ___.  He continued to need vigorous pulmonary 
toilet with chest ___, nebulizers and incentive spirometry and he 
was able to maintain his oxygen saturations > 95% with O2 at ___ 
LPM.  He currently is off of oxygen with room air saturations of 
97% but still requires nebulizer treatment to help clear his 
secretions.

Cardiac:  He developed rapid atrial fibrillation on post op day 
#1 which initially caused some hypotension.  He was treated with 
a Diltiazem drip and eventually IV metoprolol once his blood 
pressure allowed. His medications were switched to via the J 
tube and currently he remains ___ atrial fib/flutter anywhere 
from 70-110.  He's generally under 100 but does occasionally 
increase if he ambulates or does anything exertional.  His 
Diltiazem is 120 mg TIF and his lopressor is 50 mg TID with BP 
130/61 and HR as stated earlier.  Troponins have been checked 
during periods of RAF and have always been negative. He 
initially began anticoagulation with IV heparin and Coumadin but 
has been switched to Lovenox as he has an anastomotic leak and 
may need further invasive procedures. He will eventually ne able 
to transition to Coumadin when he's allowed to take medications 
orally.  He will also need a referral to cardiology following 
discharge.

GI: Mr. ___ had a J tube placed at the time of surgery and has 
received 100% of his nutrition via the J tube post op.  He 
tolerated Promote (no fiber) at his goal rate and began cycled 
feedings about a week ago.  He's receiving Promote at 130 mls/hr 
over 18 hrs from 3PM to 9AM.  From a surgical standpoint he 
developed fevers post op 4 to 102 and underwent a CT Torso which 
ruled out an anastomotic leak.  He was pan cultured and all were 
negative.  His JP drain and chest tube were eventually removed 
after an EGD on ___ showed no anastomotic leak and he did 
not have any leukocytosis. He had a bedside swallow done on 
___ which he passed.  He developed another temperature spike 
on ___ and had a repeat CT Torso which demonstrated some new 
pleural effusions as well as some air bubbles around the 
anastomosis, concerning for leak. Again, conservative treat was 
done including remaining NPO and broad spectrum antibiotic 
coverage.  He underwent a barium swallow on ___ which 
confirmed an anastomotic leak.  This prompted evaluation by the 
GI service and on ___ he was taken to the GI suite and had 
an EGD with placement of a Cook clip to ablate the fistulous 
tract around the anastomosis.  Unfortunately he decompensated 
post EGD, initially with rapid atrial firillation, desaturation 
and some complaints of shortness of breath.  He was transferred 
back to the ICU and improved with IV Diltiazem.  Once his heart 
rate was under control his SOB resolved and he improved.  
Currently he remains NPO as a barium swallow was done on ___ 
which again demonstrated a leak.  He will remain NPO and will 
return for a repeat swallow on ___ to determine the next 
course.

Neuro:  Although he had problems with delirium early post op, he 
has totally cleared and is only on his Lithium.  He has 
expressed concerns that he's not sleeping well and our 
medication choices were limited as elixir is not available here 
___ any sleeping medication other than Benedryl.  Sublingual 
Ativan was tried earlier (0.5mg) to decrease his anxiety but 
it's unclear how helpful it was.  He's very anxious to improve 
his strength and endurance so that he can get on with his life.

GU:  He had a brief increase ___ his creatinine from his baseline 
of 0.9 preop to 1.7 post op lasting ___ days but this resolved 
and has not been an issue for weeks.  His creatinine today is 
0.8.  He has not had any issues with voiding post foley removal.

ID:  Mr. ___ has been on multiple antibiotics at different 
times  post op for aspiration pneumonia.  All of his cultures 
have been negative except some GPC's ___ a BAL gram stain from 
___ but the culture was negative.  He's currently on 
Augmentin suspension via his J tube which was started to treat a 
possible aspiration on ___ and should continue thru 
___.  He has had no temperature spikes ___ 5 days and his 
WBC is 10K today.

After a long, protracted hospital course Mr. ___ will be 
discharged to rehab for vigorous Physical Therapy to help him 
regain his strength and eventual independence.  He will follow 
up ___ the Thoracic Clinic ___ 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Lithium Carbonate 900 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. fenofibrate micronized 200 mg oral daily 
5. Simvastatin 80 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Omeprazole 40 mg PO BID 
8. Aspirin 325 mg PO DAILY 
9. Fexofenadine 180 mg PO DAILY:PRN allergies 
10. Cyanocobalamin ___ mcg PO DAILY 
11. Ascorbic Acid ___ mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain, fever 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze 
3. Artificial Tears ___ DROP BOTH EYES PRN red eye 
4. Diltiazem 120 mg PO Q8H 
5. Docusate Sodium (Liquid) 100 mg PO BID 
6. Enoxaparin Sodium 80 mg SC BID 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
7. Lithium Oral Solution 900 mg PO DAILY 
8. Metoprolol Tartrate 50 mg PO Q8H 
9. Nystatin Oral Suspension 5 mL PO QID 
10. Ondansetron 4 mg IV Q8H:PRN nausea 
11. OxycoDONE Liquid 10 mg PO Q4H:PRN pain 
give via J tube and flush with 20 mls water 
RX *oxycodone 5 mg/5 mL 10 mls by mouth every four (4) hours 
Disp #*500 Milliliter Milliliter Refills:*0
12. Amoxicillin-Clavulanate Susp. 500 mg PO Q8H 
thru ___ 
13. Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line 
flush 
14. Metoprolol Tartrate 5 mg IV Q4H:PRN HR>120 
15. Pantoprazole 40 mg IV Q24H 
16. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Esophageal cancer
___
Atrial fibrillation
Pneumonia
Esophageal anastomotic leak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* You were admitted to the hospital for esophageal surgery and 
unfortunately developed a number of complications post op which 
required a prolonged ICU stay as well as hospital stay.  You are 
improving daily but will need to spend some time ___ rehab prior 
to returning home.
* Continue to use your incentive spirometer every hour while 
awake to help expand your lungs.
* You will continue your tube feedings on a cycled basis to get 
100% of your calories. this will help with healing and build up 
your strength. Check the feeding tube site daily to make sure 
the sutures are intact and make sure there's no redness or 
drainage.
* You will not be able to eat or drink anything until the 
esophageal leak heals but the mouth swabs are fine to moisten 
your mouth.
* You developed an irregular heart rate post op and currently 
the rate is normal but it remains irregular.  You will need to 
be anticoagulated indefinitely.  Currently you are on Lovenox 
injections but you will eventually be able to take a pill called 
Coumadin when you're cleared to swallow medications.
* Continue to use your incentive spirometer 10 times an hour to 
help keep your lungs fully expanded.
* You will need to come back to ___ on a periodic basis 
to obtain a barium swallow to assess the leak and you will also 
see Dr. ___.
 
Followup Instructions:
___